US06720320B2
(S)-2-(ethylsulfonyl)-4-glycidyloxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(ethylsulfonyl)-4-hydroxybenzo(b)furan (2.75 g), (S)-glycidyl nosylate (3.48 g) and potassium carbonate (5.05 g), a crude product of the title compound (3.62 g) was obtained as a pale-yellow oil.

reactant | 2-(ethylsulfonyl)-4-hydroxybenzo(b)furan | 2.75 g | C(C)S(=O)(=O)C1=CC2=C(O1)C=CC=C2O | C10H10O4S
reactant | (S)-glycidyl nosylate | 3.48 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 5.05 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-(ethylsulfonyl)-4-glycidyloxybenzo(b)furan | 3.62 g | C(C)S(=O)(=O)C1=CC2=C(O1)C=CC=C2OC[C@@H]2CO2 | C13H14O5S
